US09216173B2
Ethyl-2-chloroacetate (147 g, 1.20 mol) was added to a stirred solution of ethyl prop-2-enoate (150 g, 1.50 mol) in DMF (700 mL) at 0° C. Sodium hydride (60% w/w, 48.0 g, 1.20 mol) was added portion-wise to the reaction mixture at 0° C. over a period of 2 hours. The reaction mixture was allowed to warm to room temperature. After 16 hours, the reaction mixture was quenched with ice water (500 mL) and extracted with ethyl acetate (2×1.0 L). The organic layers were combined, washed with water (500 mL) and then brine (500 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (10-20% ethyl acetate/petroleum ether, linear gradient) to afford diethyl rel-(1R,2R)-cyclopropane-1,2-dicarboxylate. 1H NMR (300 MHz, CDCl3) δ 4.20-4.10 (m, 4H), 2.10-2.05 (m, 2H), 1.48-1.40 (m, 2H), 1.35-1.20 (m, 6H).

reactant | Ethyl-2-chloroacetate | 1.20 mol, 147 g | C(C)OC(CCl)=O | C4H7ClO2
reactant | ethyl prop-2-enoate | 1.50 mol, 150 g | C(C=C)(=O)OCC | C5H8O2
reactant | Sodium hydride | 1.20 mol, 48.0 g | [H-].[Na+]
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | diethyl rel-(1R,2R)-cyclopropane-1,2-dicarboxylate | [C@@H]1([C@@H](C1)C(=O)OCC)C(=O)OCC | C9H14O4
